US04024134
A solution of diphenylmethyl 3-acetoxymethyl-7β-[2-(4-nitrobenzoyloxyimino)-2-phenylacetamido]ceph-3-em-4-carboxylate (syn-isomer) (1.0 g) in trifluoroacetic acid (10 ml.) was allowed to stand at room temperature for ten minutes. After evaporation of trifluoroacetic acid under reduced pressure, the residue was dissolved in ethyl acetate and extracted with saturated aqueous sodium bicarbonate. A solid precipitated during the bicarbonate extraction and was collected, washed with water and ethyl acetate, and partitioned between ethyl acetate and 2N-hydrochloric acid. The phases were separated and the upper layer was washed with water, dried, concentrated to ca. 10 ml. and added dropwise with stirring to petroleum (b.p. 40-60°; 200 ml.). The precipitated solid was filtered and dried to give 3-acetoxymethyl-7β-[2-(4-nitrobenzoyloxyimino)-2-phenyl-acetamido]ceph-3-em-4-carboxylic acid (syn-isomer) (0.150 g; 20%), [α]D + 17° (c 0.8, DMSO) λmax. (EtOH) 266.5 nm (ε 33,000), νmax. (Nujol) 3270 (NH), 1780 (β-lactam) 1520 and 1338 (NO2), 1675 and 1520 cm.-1 (CONH), τ (DMSO-d6) values include 1.58 and 1.69 (two doublets J 8 Hz; p-substituted phenyl), 2.1 to 2.5 (multiplet; aromatic protons), 7.79 (singlet; OCOCH3).

reactant | diphenylmethyl 3-acetoxymethyl-7β-[2-(4-nitrobenzoyloxyimino)-2-phenylacetamido]ceph-3-em-4-carboxylate | 1.0 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(C(C2=CC=CC=C2)=NOC(C2=CC=C(C=C2)[N+](=O)[O-])=O)=O)=O | C38H30N4O10S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-acetoxymethyl-7β-[2-(4-nitrobenzoyloxyimino)-2-phenyl-acetamido]ceph-3-em-4-carboxylic acid | 0.150 g, 20% | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(C(C2=CC=CC=C2)=NOC(C2=CC=C(C=C2)[N+](=O)[O-])=O)=O)=O | C25H20N4O10S
